US05464865
By the method of example 48, 1-bromo-4-(2-methoxyethenyl)benzene is lithiated and added to benzaldehyde. The crude product is acetylated with acetic anhydride in the presence of DMAP, providing alpha-(4-(2-methoxyethenyl)phenyl)benzyl acetate as a colorless oil. This ester (1.76 g) is treated with methanesulfonic acid (0.5 ml) in methanol (25 ml) at 50° for 16 hr. The acetoxy group and the enol ether are both solvolyzed in this reaction. The mixture is cooled, poured into saturated aqueous sodium bicarbonate, and extracted with three portions of ether, which are dried and evaporated to leave 1-(2,2-dimethoxyethyl)-4-((methoxy)(phenyl)methyl)benzene as a colorless oil (1.62 g). The methoxy group is hydrogenolyzed by dissolving this material in ethyl acetate (100 ml), and shaking with 10% Pd/C under 50 psi hydrogen for 60 hr. Filtration and evaporation provide 1-(2,2-dimethoxyethyl)-4-(phenylmethyl)benzene as a colorless oil (1.46 g). By the method of example 1(B&C), this is converted into the title compound, which is obtained as a pale yellow solid, mp 148°-150° after recrystallization from hexaneethyl acetate.

reactant | 1-bromo-4-(2-methoxyethenyl)benzene | BrC1=CC=C(C=C1)C=COC | C9H9BrO
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | alpha-(4-(2-methoxyethenyl)phenyl)benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)C1=CC=C(C=C1)C=COC | C18H18O3
